US07163936B2
To a solution of tert-butyl (4R)-4-amino-5-(methoxymethoxy)pentanoate (2.33 g, 10 mmol) and diisopropylethylamine (2.6 ml, 15 mmol) in methanol (70 ml) was dropped at room temperature methyl bromoacetate (1.4 ml, 15 mmol) in methanol (10 ml) and the mixture was stirred at 60° C. for 1 hour. Thereto were added additional methyl bromoacetate (0.5 ml, 5 mmol) and diisopropylethylamine (0.9 ml, 5 mmol). After stirring for 1 hour, the mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was dissolved in chloroform (50 ml) and thereto was dropped allyl chloroformate (2.15 ml, 20 mmol) and then diisopropylethylamine (3.5 ml, 20 mmol). The mixture was stirred at the same temperature for 1 hour and at room temperature for 1 hour, respectively. Water was added thereto under cooling in an ice bath. The mixture was extracted three times with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and was dried over magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel (51 g) chromatography (hexane/ethyl acetate: 2/1˜hexane/ethyl acetate: 1/1) to give tert-butyl (4R)-4-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino}-5-(methoxymethoxy)pentanoate (3.01 g, 77%).

reactant | tert-butyl (4R)-4-amino-5-(methoxymethoxy)pentanoate | 10 mmol, 2.33 g | N[C@H](CCC(=O)OC(C)(C)C)COCOC | C11H23NO4
reactant | diisopropylethylamine | 15 mmol, 2.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl bromoacetate | 15 mmol, 1.4 ml | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 5 mmol, 0.5 ml | BrCC(=O)OC | C3H5BrO2
reactant | diisopropylethylamine | 5 mmol, 0.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | allyl chloroformate | 20 mmol, 2.15 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | diisopropylethylamine | 20 mmol, 3.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | Water | O | H2O
product | tert-butyl (4R)-4-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino}-5-(methoxymethoxy)pentanoate | 3.01 g, 77% | C(C=C)OC(=O)N([C@H](CCC(=O)OC(C)(C)C)COCOC)CC(=O)OC | C18H31NO8
